Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Hydrochlorothiazide
 
Attending: ___.
 
Chief Complaint:
Complete Heart Block  
 
Major Surgical or Invasive Procedure:
Placement of Implanted Pacemaker
 
History of Present Illness:
Mr. ___ is a ___ year old man with a history of hypertension 
and prior syncopal evaluation in ___ who presents with 
bradycardia. He sent to the ED from his PCP's office where he 
was found to be bradycardic to ___ and an EKG showed complete 
heart block, he was asymptomatic at that time.  
.  
In the ED, initial vitals were 98 30 91/58 18 100%. Labs and 
imaging significant for Troponin <0.01, Cr 1.3, Hct 38.5, freeCa 
1.11 and INR 1.1. External pacing pads were placed on his chest, 
but did not require pacing. Electrophysiology consult was 
obtained in the ED advised no need for pacing wire and plan for 
pacemaker placement in AM. Patient denied chest pain, shortness 
of breath, lightheadedness, fevers or recent illnesses. Vitals 
on transfer were 30 135/85  
18 96.  
.  
On arrival to the floor, patient appears comfortable and is 
without additional complaints. Of note per PCP patient had 
existing conduction disease with 1st degree AVB, RBBB, and LAFB. 
 
.  
.  
REVIEW OF SYSTEMS  
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. He denies recent fevers, chills or rigors. 
S/he denies exertional buttock or calf pain. All of the other 
review of systems were negative.  
.  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.  
 
Past Medical History:
Hypertension:  MRI negative for renal artery stenosis in past.
Dilated cardiomyopathy-  EF 40%, diagnosed in ___.
Diabetes mellitus-  HbA1c of 6.8% in ___ recently d/c'd 
glipizide
Venous stasis ulcers:  s/p surgery in ___
Erectile dysfunction
 
Social History:
___
Family History:
Mother with DM. No colon or prostate cancer.
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:

VS: T=98.4 BP=156/89 HR=30 RR=16 O2 sat=99% on RA FSBG=98  
GENERAL: WDWN Man in NAD. Oriented x3. Mood, affect appropriate. 
 
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple with JVP of 10 cm.  
CARDIAC: Bradycardic. No m/r/g. No thrills, lifts. No S3 or S4.  

LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: 1+ ___ ___ edema to mid-calf. No clubbing or 
cyanosis, No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  

PHYSICAL EXAM ON DISCHARGE:
Vitals: HR 68, BP ___
Exam otherwise unchanged
 
Pertinent Results:
Lab Results on Admission:

___:50PM BLOOD WBC-5.3 RBC-4.00* Hgb-12.8* Hct-38.5* 
MCV-96# MCH-32.1* MCHC-33.3 RDW-13.3 Plt ___
___ 05:50PM BLOOD Neuts-65.0 ___ Monos-5.5 Eos-0.9 
Baso-0.3
___ 05:50PM BLOOD ___ PTT-37.1* ___
___ 05:50PM BLOOD Glucose-246* UreaN-27* Creat-1.3* Na-139 
K-3.7 Cl-102 HCO3-26 AnGap-15
___ 05:50PM BLOOD Calcium-9.0 Phos-3.0 Mg-1.6
___ 06:09PM BLOOD Glucose-237* Na-139 K-3.8 Cl-101 
calHCO3-25
___ 06:09PM BLOOD freeCa-1.11*
___ 06:09PM BLOOD ___ pH-7.40 Comment-GREEN TOP

Studies:

Cardiovascular ReportECGStudy Date of ___  12:11:06 ___
Sinus rhythm with complete A-V block and a ventricular escape 
rhythm. Compared to the previous tracing of ___ complete A-V 
block is now present.

Cardiovascular ReportECGStudy Date of ___  5:52:12 ___
Sinus rhythm with complete A-V block and ventricular escape 
rhythm. Compared
to tracing #1 no significant change.

Cardiovascular ReportECGStudy Date of ___  9:59:14 ___
Sinus rhythm with complete A-V block and idioventricular escape 
rhythm.
Compared to the previous tracings earlier today no significant 
change.

Cardiovascular ReportECGStudy Date of ___  11:16:14 AM
Sinus rhythm, rate 55, with complete heart block and a 
ventricular escape
at 25 beats per minute. Compared to the previous tracing of 
___ there is no significant change.

Cardiovascular ReportECGStudy Date of ___  9:11:48 AM
Atrial and ventricular sequential pacing. Compared to the 
previous tracing
of ___ atrial and ventricular pacing is new.

Radiology Report   CHEST (PA & LAT)Study Date of ___ 9:38 
AM
IMPRESSION: Appropriately positioned left-sided pacemaker with 
leads
terminating in the right atrium and right ventricle. No 
pneumothorax or other complications are identified.

Lab Results on Discharge:

___ 06:05AM BLOOD WBC-4.6 RBC-4.08* Hgb-13.4* Hct-39.1* 
MCV-96 MCH-32.9* MCHC-34.3 RDW-13.2 Plt ___
___ 06:05AM BLOOD Glucose-139* UreaN-17 Creat-1.2 Na-138 
K-4.2 Cl-103 HCO3-27 AnGap-12
___ 07:40AM BLOOD ALT-12 AST-13 LD(LDH)-158 AlkPhos-72 
TotBili-0.3
___ 06:05AM BLOOD Calcium-9.2 Phos-3.3 Mg-2.0
 
Brief Hospital Course:
PRIMARY REASON FOR HOSPITALIZATION:  
Patient is a ___ year-old man with PMH of HTN, DM and known LAFB 
and RBBB block that has now progressed to complete heart block 
and admitted for pacemaker placement. Patient had a stable blood 
pressure and excellent mental status with heart rate in low 30's 
on admission. He received a pacemaker with successful pacing and 
lead placement, and was discharged with HR>60bpm.
. 
ACUTE CARE:
. 
1. COMPLETE HEART BLOCK: Patient presented to his PCP for ___ 
regular health maintenance visit where his PCP discovered that 
he had a heart rate in the 30___s. He was sent to the hospital for 
evaluation. Patient had a history of LAFB and RBBB which 
progressed to complete heart block in stable escape rhythm as 
discovered on ECG. He remained asymptomatic with stable BP and 
unaltered mental status. Troponin T was <0.01 x 2, ECG showed no 
signs of ischemia, and patient was chest-pain free making 
ischemic event unlikely. He received an implantable pacemaker 
without complications and was discharged with HR in the low 60's 
and stable blood pressure. He received ___ 
antibiotics for pacemaker placement, and was discharged with two 
days of cephalexin.
.  
2 Hypertension: Patient was continued on home lisinopril while 
awaiting pacemaker placement and discharged on his home BP meds 
of hydralazine, Imdur, chlorthalidone, lisinopril, and 
amlodipine.
.  
3. Diabetes: Patient's home metformin was held as an inpatient 
and re-started on discharge. He received insulin sliding scale 
glucose coverage as an inpatient.
- Insulin sliding scale while inpatient.  
.
CHRONIC CARE:
.  
1. Glaucoma: Continued Timolol eye gtts  
.
TRANSITIONS IN CARE
.
1. CODE STATUS: Confirmed full  
2. EMERGENCY CONTACT: ___ - ___  
3. ___ CHANGES:
  1. START Cephalexin 500mg by mouth every 6 hours for two days.
4. FOLLOWUP:

Department: HEALTHCARE ASSOCIATES
When: ___ at 9:00 AM
With: ___
Building: ___
Campus: ___ Best Parking: ___

Department: CARDIAC SERVICES
When: ___ at 10:30 AM
With: ___
Building: ___
Campus: ___ Best Parking: ___

Department: ___
When: ___ at 10:35 AM
With: ___
Building: ___
Campus: ___ Best Parking: ___

5. OUTSTANDING CLINICAL ISSUES:
-BP management and consideration of further HTN workup
-pacemaker adjustments as needed
 
Medications on Admission:
amlodipine 2.5 mg per day,  
hydralazine 100 mg t.i.d.,  
Imdur 120 mg daily,  
lisinopril 40 mg once daily,  
chlorthalidone 12.5 mg (on hold)  
metformin 1000 mg b.i.d.  
timolol 0.5% gtts ___  
aspirin 81 mg daily. 
 
Discharge Medications:
1. Keflex ___ mg Capsule Sig: One (1) Capsule PO every six (6) 
hours for 2 days.
Disp:*8 Capsule(s)* Refills:*0*
2. amlodipine 2.5 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. metformin 1,000 mg Tablet Sig: One (1) Tablet PO twice a day. 
 
4. timolol maleate 0.5 % Drops Sig: One (1) Drop Ophthalmic 
DAILY (Daily): to both eyes.  
5. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
6. hydralazine 100 mg Tablet Sig: One (1) Tablet PO three times 
a day.  
7. isosorbide mononitrate 120 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO once a day.  
8. lisinopril 40 mg Tablet Sig: One (1) Tablet PO once a day.  
9. chlorthalidone 25 mg Tablet Sig: one-half Tablet PO once a 
day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Complete Heart Block

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because you had a very low 
heart rate. A pacemaker was placed so that your heart would beat 
at a safe rate. You were discharged home following the procedure 
and should follow the instructions on the post-pacemaker 
instruction sheet provided to you.

Please make the following changed to your medications:

1. START Cephalexin 500mg by mouth every 6 hours for two days.

Please take all other medications as previously prescribed and 
please keep your follow-up appointments.
 
Followup Instructions:
___